US07981903B2
10% Pd on carbon (0.5 g, 17.37 mmol) was placed under N2 atm. MeOH (20 mL) was added, followed by a solution of N,N-dimethyl-2-(6-methyl-7-nitro-3,4-dihydro-1(2H)-quinolinyl)-2-oxoethanamine (2.07 g, 7.46 mmol) in MeOH (80 mL). The mixture was placed under H2 atm via balloon and maintained for 1 day. The resulting mixture was filtered through a pad of Celite using MeOH. The filtrate was concentrated, the residue was taken up into Et2O and concentrated again to afford 1-[(dimethylamino)acetyl]-6-methyl-1,2,3,4-tetrahydro-7-quinolinamine as a grey solid (1.55 g, 84%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.71-1.87 (m, 2H), 1.99 (s, 3H), 2.20 (s, 6H), 2.45-2.58 (m, 2H), 3.18 (s, 2H), 3.61 (t, J=6.13 Hz, 2H), 4.66 (br s, 2H), 6.69 (s, 1H), 6.78 (br s, 1H); ESIMS (M+H)+=248.17.

reactant | N,N-dimethyl-2-(6-methyl-7-nitro-3,4-dihydro-1(2H)-quinolinyl)-2-oxoethanamine | 7.46 mmol, 2.07 g | CN(CC(=O)N1CCCC2=CC(=C(C=C12)[N+](=O)[O-])C)C | C14H19N3O3
solvent | MeOH | 80 mL | CO | CH4O
catalyst | Pd on carbon | 17.37 mmol, 0.5 g | [Pd] | Pd
solvent | MeOH | 20 mL | CO | CH4O
product | 1-[(dimethylamino)acetyl]-6-methyl-1,2,3,4-tetrahydro-7-quinolinamine | 1.55 g, 84% | CN(C)CC(=O)N1CCCC2=CC(=C(C=C12)N)C | C14H21N3O
